US08486967B2
Prepared in analogy to example 219f), starting from (2-amino-[1,2,4]triazolo[1,5-a]pyridin-8-yl)(4-fluorophenyl)methanol and 1-(3-methyl-1,2,4-thiadiazol-5-yl)piperidin-4-one. As a reducing agent 1 eq decaborane in methanol was used at 50° C. over night. The crude product was purified by column chromatography on silica gel using a gradient from CH2Cl2 to CH2Cl2/MeOH 19:1 (v/v) as eluent to yield eluting first {8-[(4-fluoro-phenyl)-methoxy-methyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-[1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-yl]-amine (yield: 4%) as a colorless oil.

reactant | (2-amino-[1,2,4]triazolo[1,5-a]pyridin-8-yl)(4-fluorophenyl)methanol | NC1=NN2C(C(=CC=C2)C(O)C2=CC=C(C=C2)F)=N1 | C13H11FN4O
reactant | 1-(3-methyl-1,2,4-thiadiazol-5-yl)piperidin-4-one | CC1=NSC(=N1)N1CCC(CC1)=O | C8H11N3OS
reactant | decaborane | 1 eq | [B][B][B][B][B][B][B][B][B][B] | B10
reactant | methanol | CO | CH4O
product | {8-[(4-fluoro-phenyl)-methoxy-methyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-[1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-yl]-amine | yield: 4% | FC1=CC=C(C=C1)C(C=1C=2N(C=CC1)N=C(N2)NC2CCN(CC2)C2=NC(=NS2)C)OC | C22H24FN7OS
